US07799805B2
(rac.)-(1R*,5S*)-7-{4-[3-(tert-Butyl-dimethyl-silanyloxy)-propyl]-phenyl}-9-methyl-3,9-diaza-bicyclo[3.3.1]non-6-ene-3,6-dicarboxylic acid 3-tert-butyl ester 6-ethyl ester (F2)
A sol. of [3-(4-bromo-phenyl)-propoxy]-tert-butyl-dimethyl-silane (102.1 g, 310 mmol) in THF (1.50 L) under nitrogen is cooled to −78° C. BuLi (1.5M in hexane, 212 mL, 318 mmol) is added. After 30 min, ZnCl2 (1M in THF, 465 mL, 465 mmol) is added. The mixture is allowed to warm up to rt. (rac.)-(1R*,5S*)-9-Methyl-7-trifluoromethanesulfonyloxy-3,9-diaza-bicyclo[3.3.1]non-6-ene-3,6-dicarboxylic acid 3-tert-butyl ester 6-ethyl ester (83.6 g, 155 mmol) in THF (100 mL) and then Pd(PPh3)4 (4.48 g, 3.87 mmol) are added. The mixture is heated to reflux for 30 min, and allowed to cool to rt. The mixture is diluted with EtOAc and washed with aq. 1M NaOH (1×). The org. extracts are dried over MgSO4, filtered, and the solvents are removed under reduced pressure. Purification of the residue by FC (MeOH/CH2Cl2 1:49→1:24→3:47→2:23) yields the title compound (88.6 g, virtually quantitative). LC-MS: tR=0.98 min; ES+: 559.24.

reactant | [3-(4-bromo-phenyl)-propoxy]-tert-butyl-dimethyl-silane | 310 mmol, 102.1 g | BrC1=CC=C(C=C1)CCCO[Si](C)(C)C(C)(C)C | C15H25BrOSi
reactant | BuLi | 318 mmol, 1.5M, 212 mL | [Li]CCCC
reactant | (rac.)-(1R*,5S*)-9-Methyl-7-trifluoromethanesulfonyloxy-3,9-diaza-bicyclo[3.3.1]non-6-ene-3,6-dicarboxylic acid 3-tert-butyl ester 6-ethyl ester | 155 mmol, 83.6 g | C(C)OC(=O)C=1[C@H]2CN(C[C@@H](CC1OS(=O)(=O)C(F)(F)F)N2C)C(=O)OC(C)(C)C | C17H25F3N2O7S
solvent | THF | 1.50 L | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | ZnCl2 | 465 mmol, 1M, 465 mL | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(PPh3)4 | 3.87 mmol, 4.48 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (rac.)-(1R*,5S*)-7-{4-[3-(tert-Butyl-dimethyl-silanyloxy)-propyl]-phenyl}-9-methyl-3,9-diaza-bicyclo[3.3.1]non-6-ene-3,6-dicarboxylic acid 3-tert-butyl ester 6-ethyl ester | C(C)OC(=O)C=1[C@H]2CN(C[C@@H](CC1C1=CC=C(C=C1)CCCO[Si](C)(C)C(C)(C)C)N2C)C(=O)OC(C)(C)C | C31H50N2O5Si
